US07741321B2
To a solution of 4-bromomethyl-1-chloro-2-methoxy-benzene (68.5 g, 0.29 mol) in C2H5OH (90%, 500 mL) was added NaCN (28.5 g, 0.58 mol). The mixture was stirred at 60° C. overnight. Ethanol was evaporated and the residue was dissolved in H2O. The mixture was extracted with ethyl acetate (300 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and purified by column chromatography on silica gel (Petroleum Ether/EtOAc 30:1) to give 2-(4-chloro-3-methoxyphenyl)acetonitrile (25 g, 48%). 1H NMR (400 MHz, CDCl3) δ 7.36 (d, J=8 Hz, 1H), 6.88-6.84 (m, 2H), 3.92 (s, 3H), 3.74 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 155.4, 130.8, 129.7, 122.4, 120.7, 117.5, 111.5, 56.2, 23.5.

reactant | 4-bromomethyl-1-chloro-2-methoxy-benzene | 0.29 mol, 68.5 g | BrCC1=CC(=C(C=C1)Cl)OC | C8H8BrClO
reactant | NaCN | 0.58 mol, 28.5 g | [C-]#N.[Na+]
solvent | C2H5OH | 500 mL | C(C)O | C2H6O
product | 2-(4-chloro-3-methoxyphenyl)acetonitrile | 25 g, 48% | ClC1=C(C=C(C=C1)CC#N)OC | C9H8ClNO
